US07297795B2
A suspension of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-(thien-3-ylamino)prop-2-enamide (500 mg, 1.35 mmol) in 35 mL of acetonitrile was heated to reflux and phosphorous oxychloride (0.84 mL, 8.98 mmol) was added dropwise. The mixture was heated at reflux overnight. The resultant solution was concentrated in vacuo and the residue was cooled to 0° C. Ice water was added followed by the slow addition of saturated aqueous sodium bicarbonate. The mixture was stirred for 10 minutes then partitioned between ethyl acetate and additional saturated aqueous sodium bicarbonate. The organic layer was washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was triturated with ethyl acetate and hexane to provide 337 mg (71%) of 7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile, mp 208-210° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.85 (s, 3H), 7.39 (s, 1H), 7.46 (d, J=5 Hz, 1H), 7.76 (s, 1H), 8.11 (d, J=5 Hz, 1H), 8.61 (s, 1H), 9.74 (s, 1H); MS (ES) m/z348.1, 350.0 (M−H)−

reactant | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-(thien-3-ylamino)prop-2-enamide | 1.35 mmol, 500 mg | C(#N)C(C(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl)=CNC1=CSC=C1 | C15H11Cl2N3O2S
reactant | phosphorous oxychloride | 8.98 mmol, 0.84 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile | 337 mg, 71% | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=CS2 | C15H9Cl2N3OS
